US05968944
1-(4-Bromo-2,6-dimethylphenyl)-4-(2-ethoxy-naphthalen-1-ylmethyl)-3,5-diethyl-1H-pyrazole
Sodium hydride (60% mineral oil dispersion, 0.337 g, 8.4 mmol) was added portionwise to a solution of 1-[1-(4-bromo-2,6-dimethylphenyl)-3,5-diethyl-1H-pyrazol-4-ylmethyl]-naphthalene-2-ol (1.30 g, 8.4 mmol) in 12 ml anhydrous tetrahydrofuran. After stirring 5 minutes, iodoethane (1.12 ml, 14 mmol) was added, and the resulting reaction mixture was stirred 16 hours at ambient temperature. The solvent was removed in vacuo, and the residue was then extracted with methylene chloride/water (25 ml of each). The aqueous phase was twice extracted with 25 ml portions of fresh methylene chloride. The combined organic extracts were dried (anhydrous sodium sulfate), and concentrated in vacuo to an oily solid (1.92 g). Flash chromatography of the entire sample (silica gel, 40 micron mesh; elution with ethyl acetate/hexanes =6:94 in volume) afforded 1.1 g of the title compound as an off white solid.

reactant | Sodium hydride | 8.4 mmol, 0.337 g | [H-].[Na+]
reactant | 1-[1-(4-bromo-2,6-dimethylphenyl)-3,5-diethyl-1H-pyrazol-4-ylmethyl]-naphthalene-2-ol | 8.4 mmol, 1.30 g | BrC1=CC(=C(C(=C1)C)N1N=C(C(=C1CC)CC1=C(C=CC2=CC=CC=C12)O)CC)C | C26H27BrN2O
reactant | iodoethane | 14 mmol, 1.12 ml | ICC | C2H5I
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
product | 1-(4-Bromo-2,6-dimethylphenyl)-4-(2-ethoxy-naphthalen-1-ylmethyl)-3,5-diethyl-1H-pyrazole | 1.1 g | BrC1=CC(=C(C(=C1)C)N1N=C(C(=C1CC)CC1=C(C=CC2=CC=CC=C12)OCC)CC)C | C28H31BrN2O
